Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ragweed / morphine / Percocet
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr ___ is a ___ with h/o stage IV Hodgkins c1d10 of ABVD, 
systemic sarcoidosis on high dose steroids, IBD, OSA w/ CPAP, 
ITP s/p splenectomy, prior SVT, who presents to FICU w/ 
neutropenic fever, SVT, hypotension. Last night, he reports 
chills and temp to 102.2F.  Had a minor cough, nonproductive. No 
chest pain, shortness of breath, or palpitations at home or in 
the ED. Denies sorethroat, rhinorrhea, or nasal congestion. No 
sick contacts but lives with grandkids who go to daycare. Recent 
diarrhea that he has attributed to chemo. Denies dysuria or 
abdominal pain as well as oral pain/dysphagia. No lines yet- 
port to be placed on ___

In the ED, initial vitals were 99.8 119 129/51 22 99%ra. Labs 
significant for ANC 8, lactate 3.2, Cr 1.3 from baseline 1.1. 
Given 2L NS and lactate normalized. Given vancomycin and 
cefepime. Discussed w/ BMT fellow and held off on tamiflu.

Pt triggered in the ED at 1:27 pm for tachycardia to the 140s. 
EKG revealed AVNRT. Dropped pressures to ___ systolic in this 
setting. Resolved spontaneously, without intervention. Has h/o 
prior ___ note).Is on metoprolol at home since ___. 
Then triggered again for SVT w/ pressures to 70's, and esmolol 
gtt was started. HR did not respond to esmolol and remained in 
the 130s, and pt dropped SBPs to ___. He was started on neo per 
cards recs. CVL (RIJ) was placed and during placement pt self 
converted to sinus (spontaneously for ___ time). Pt received 
total of 4L IVF in ED. Cards said to continue pressors, nothing 
for rate control and no ablation given immuncompromised state. 
Pt's sats dropped to 93% RA and so repeat CXR done. Stress dose 
steroids (hydrocortisone 100mg IV) was also given.  

On arrival to the MICU, 
Vital signs 124/67 on neosynephrin 1.5mcg/kg/min, pulse 74, 95% 
O2 sats on room air. Has no complaints.

 

 
Past Medical History:
1. Sarcoidosis, dx skin bx: intestinal & pulmonary involvement, 
recurrent iritis
2. Inflammatory bowel disease; s/p ileo-hemicolectomy ___, 
path +sarcoid   
3. GERD.  
4. Hyperlipidemia
5  OSA on CPAP
6. Asthma.  
7. Osteoarthritis.  
8. Fractured pelvis, ___ s/p fall.
9. BPH, status post prostatectomy.  
10. Depression.  
11. History of ITP, status post splenectomy in ___.   
12. Hard of hearing and wears hearing aid.
  
Past Surgical History:  
1. s/p Ex Lap, R hemicolectomy, ileocecal colostomy for 
evaluation ileocecal mass.  
2. Arthroscopic surgery of both knees.  
3. Shoulder surgery.  
4. Hernia repair.  

 
Social History:
___
Family History:
Mother: ___, cardiac disease.  
Father: diverticulosis, peptic ulcer disease, died at age ___.  
Maternal grandfather: ___ cancer.  
Two siblings, living and healthy.  

 
Physical Exam:
ADMISSION EXAM
Vitals: 124/67 on neosynephrin 1.5mcg/kg/min, pulse 74, 95% O2 
sats on room air. 
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  
.
DISCHARGE EXAM
VITALS 97.7 (97.7) 113/76 76 18 98RA  
General: well-appearing, in NAD  
HEENT: NCAT, sclera clear, PERRLA, OP clear w/o thrush/ulcer, no 
sinus tenderness  
Neck: supple, no tenderness with full ROM, no LAD, no 
thyromegaly  
CV: regular rate and rhythm, no m/r/g  
Lungs: good airway entry b/l no crackles, no wheezes/ronchi, no 
consolidation appreciated per egophony  
Abdomen: soft, NTND, no HSM, NABS. brusing on abd surface noted, 
no clear skin break/bleeding  
GU: no foley  
Skin: port site clean with no blood, erytehma, warm, tenderness; 
bruising noted in the ___ region  
Neuro: A&Ox3, CN II-XII intact, motor strengh symmetrical and 
___ throughout, sensory grossly intact 
 
Pertinent Results:
ADMISSION LABS
___ 10:40AM BLOOD WBC-0.2* RBC-3.55* Hgb-11.0* Hct-33.0* 
MCV-93 MCH-30.9 MCHC-33.3 RDW-18.3* Plt ___
___ 10:40AM BLOOD Neuts-4* Bands-0 Lymphs-68* Monos-0 
Eos-22* Baso-0 Atyps-6* ___ Myelos-0 NRBC-42*
___ 03:54AM BLOOD WBC-0.2* RBC-2.60*# Hgb-7.9*# Hct-24.0*# 
MCV-92 MCH-30.5 MCHC-33.1 RDW-18.7* Plt ___
___ 03:54AM BLOOD Neuts-3* Bands-0 Lymphs-53* Monos-4 
Eos-9* Baso-0 Atyps-1* Metas-1* Myelos-1* Promyel-2* NRBC-106* 
Other-26*
___ 10:40AM BLOOD Glucose-104* UreaN-25* Creat-1.3* Na-134 
K-3.9 Cl-99 HCO3-21* AnGap-18
___ 08:00PM BLOOD Glucose-112* UreaN-18 Creat-1.1 Na-135 
K-3.5 Cl-106 HCO3-20* AnGap-13
___ 03:54AM BLOOD Glucose-86 UreaN-15 Creat-1.0 Na-139 
K-3.1* Cl-110* HCO3-21* AnGap-11
___ 08:00PM BLOOD Calcium-6.9* Phos-1.8* Mg-1.4*
___ 03:54AM BLOOD Albumin-2.4* Calcium-7.0* Phos-2.0* 
Mg-2.1
___ 10:40AM BLOOD ALT-66* AST-29 AlkPhos-190* TotBili-0.5
___ 03:54AM BLOOD ALT-43* AST-20 LD(LDH)-193 AlkPhos-123 
TotBili-0.3
___ 10:50AM BLOOD Lactate-3.2*
___ 01:51PM BLOOD Lactate-1.5
___ 04:50PM BLOOD Lactate-1.3
.
DISCHARGE LABS
___ 07:28AM BLOOD WBC-8.0# RBC-2.72* Hgb-8.4* Hct-25.7* 
MCV-94 MCH-30.8 MCHC-32.7 RDW-21.6* Plt ___
___ 07:28AM BLOOD Neuts-88* Bands-4 Lymphs-3* Monos-4 Eos-0 
Baso-0 ___ Metas-1* Myelos-0 NRBC-10*
___ 07:28AM BLOOD Glucose-73 UreaN-24* Creat-1.0 Na-138 
K-4.2 Cl-106 HCO3-25 AnGap-11
___ 07:28AM BLOOD Calcium-7.9* Phos-2.3* Mg-2.0
.
PERTINENT LABS
___ 12:01AM BLOOD 25VitD-22*
___ 11:42AM BLOOD IgG-543* IgA-218 IgM-10*
___ 04:50PM BLOOD Lactate-1.3
.
MICROBIOLOGY
#
___ 2:00 pm STOOL     CONSISTENCY: SOFT      Source: Stool. 


   MICROSPORIDIA STAIN (Final ___:    NO MICROSPORIDIUM 
SEEN. 

   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   VIRAL CULTURE (Preliminary):    NO VIRUS ISOLATED. 
___ 2:50 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture for further 
information. 
___ 10:30 am BLOOD CULTURE      X2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

=
=
=
=
=
=
=
=
================================================================
# ECHO ___
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
The aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Posterior MVP suspected but not 
clearly seen.. An eccentric, anteriorly directed jet of moderate 
(2+) mitral regurgitation is seen. Due to the eccentric nature 
of the regurgitant jet, its severity may be significantly 
underestimated (Coanda effect). The tricuspid valve leaflets are 
mildly thickened. The pulmonary artery systolic pressure could 
not be determined. There is no pericardial effusion. 

Compared with the report of the prior study (images unavailable 
for review) of ___, no definite change.  
=
=
=
=
=
=
=
=
================================================================
IMAGING
# CXR ___
FINDINGS:  Frontal and lateral views of the chest were obtained. 
 Left basilar 
atelectasis is seen.  There is left basilar and left mid lung 
atelectasis/scarring.  Chain sutures are noted overlying the 
right 
upper-to-mid hemithorax.  There is subtle focal patchy opacity 
projecting over 
the right lateral lower chest, which in the same location on the 
lateral view, 
appeared to be a linear opacity dating back to ___.  
Finding could 
represent atelectasis/scarring; however, on the current study, 
it appears more 
amorphous and a small focus of infection is not excluded.  The 
cardiac and 
mediastinal silhouettes are stable.  There is no pleural 
effusion or 
pneumothorax.  There is persistent moderate compression of 
multiple vertebral 
bodies including at least two mid thoracic and at least two in 
the 
thoracolumbar region, similar to the prior chest x-ray. 
# CXR ___
IMPRESSION:  AP chest compared to ___: 
  
Multifocal pulmonary consolidation is clearing.  Heart is normal 
size.  Right 
paratracheal mediastinal fullness, due in part to adenopathy is 
longstanding.  
No pleural effusion.  Heart size normal.  Right jugular line 
ends in the 
region of the superior cavoatrial junction. 
# CT CHEST W/O CONTRAST ___
FINDINGS: 
  
Aorta and pulmonary arteries are normal in diameter.  The right 
central venous 
line tip is at the level of right atrium.  No appreciable 
mediastinal 
lymphadenopathy is seen.  Within the limitations of this 
non-enhanced study, 
there is no evidence of hilar or axial lymphadenopathy.  No 
pericardial or 
pleural effusion.  Increased density of the myocardium as 
compared to the 
blood in the chambers of the left ventricle is consistent with 
anemia. 
  
Airways are patent till the subsegmental level bilaterally. 
Right upper lobe 
scarring is unchanged with volume loss and slight bronchial 
distortion.  Left 
upper lobe scarring is unchanged.  Pulmonary nodules scattered 
throughout the 
lungs are all stable with no new pulmonary nodules, masses or 
consolidations 
to suggest infectious process. 
  
There are no lytic or sclerotic lesions worrisome for infection 
or neoplasm.  
Multiple compression fractures are redemonstrated and can be 
seen at least 
back on ___ chest radiograph.  No new lesions seen. 

  
The imaged portion of the upper abdomen reveals no appreciable 
abnormality. 
  
IMPRESSION: 
  
1.  No evidence of new pulmonary abnormalities to be attributed 
to neutropenic 
fever. 
  
2.  Unchanged appearance of the chronic changes related to known 
sarcoidosis. 
  
3.  Status post splenectomy.  Evidence of anemia. 
  
4.  Multiple compression fractures of the thoracic spine, 
gallstones, 
unchanged. 

 
Brief Hospital Course:
___ male with h/o Hodgkin's lymphoma C1D17 ABVD, sarcoidosis, 
OSA on CPAP, h/o AVNRT, presented with neutropenic fever and 
SVT.

MICU Course:  
============
Pt. was initially admitted to the MICU for hemodynamic 
instability requiring pressors (levo) in the setting of presumed 
neutropenic fever and sepsis.  Pt.'s hemodynamics quickly 
improved once starting cefepime/vancomycin with fluid 
resuscitation.  He was also noted to have a downtrending 
lactate.  He was quickly weaned off of pressors and transferred 
to the floor.

Floor Course:
=============
# Neutropenic fever, no clear source identified: p/w T102.2 at 
home, initially met ___ SIRS criteria. lactate 3.2 on admisison, 
resolved s/p fluid resuscitation. fever quickly resolved the day 
after admission. vanc/cefepime d/c'd ___ and ___, respectively, 
without new fever. Pt finished a course of levofloxacin for 
community acquired pneumonia, also w/o recurrence of fever and 
no futher pulmonary symptoms.  Course notable for new 
leukocytosis with watery diarrhea, c. diff ordered, but no BM 
since. stool culture negative, O&P negative. Leukocytosis likely 
related to underlying malignancy. Culture with negative 
respiratory virus studies, negative urine culture, Blood cx 
NGTD.  CT negative for pneumonia. 

# AVNRT: Pt presented with reported (ED EKG not recovered) 
SVT/AVNRT to 130s with decreased BP x 2, spontaneously resolved 
in the ED.  Has h/o 2 AVNRT per ___ cardiology consult note. 
  At that time they did not suspect cardiac sarcoid as a 
causative agent, based on TTE/EKG. Catheter-ablation was 
discussed but pt declined and pt not currently a candidate given 
immunocompromised state. Beta-blockers were advised; pt did not 
respond to esmolol gtt in ED. Initial cardiology impression was 
that the tachycardia may be more related to presentation of 
SIRS. Pt was noted to have another episode of AVNRT during the 
hospital stay with HR to 140.  The AVNRT once again 
spontaneously resolved. Pt was restarted on home dose of 
metoprolol in short-acting forms once pt's BP improved with no 
further episodes of AVNRT noted.

# Port placement c/b bleed - pt received port placement ___. He 
was noted to have oozing from dressing site post procedure day 
1. Prophylactic dosing of heparin was discontinued given 
isolated PTT elevation.  His PTT normalized.  Pressure dressing 
was placed on the port site.  Interventional radiology 
re-examined the port and noted small bleeding vessel underneath 
the port, which was cauterized by ___. Pt was monitored for 
24hours afterwards with no re-bleeding.  Port was ok to access 
per ___.
 
# Hodgkin's Lymphoma: stage IV. admitted in C1 of ABVD .Most 
recent PET CT scan on ___ showed 1) hilar, mesenteric, and 
RP LAD; 2)New scattered FDG-avid foci in the liver and pancreas. 
3) New focus of FDG-avidity in the L2 vertebral body. Received 
D1 of C1 of ABVD on ___. Immuran stopped and PSE dose 
reduced to 30mg/day from 40mg/day. ___: PSE dose reduced to 
25mg/day, but increased to 30mg/day on ___. PFT obtained, which 
showed reduced diffusing capacity. Bleomycin was therefore held. 
 ECHO was obtained with good EF and no wall motion 
abnormalities.  Pt received AVD in house prior to discharge. Pt 
was continued on Fluconazole 400 mg PO Q24H, Acyclovir 400 mg PO 
Q8H, and Sulfameth/Trimethoprim SS 1 TAB PO DAILY for 
prophylaxis.

# Normocytic Anemia: Hct stable this am. No gross signs of 
bleeding on transfer to floor. decrease in hct initially may be 
related to dilutional effect in the setting of fluid 
resuscitation - though pt did not experience similar decrease 
his other cell lines.  Pt remains asymptomatic in regards to his 
anemia. no dizziness/light headedness or palpitation.  His 
hgb/hct remained stable and did not require transfusion.

# Sarcoidosis: thought to involve skin, gut, eyes and lungs, and 
presumed neurosarcoidosis in the form of headaches. Followed by 
rheumatology and pulmonary service for ___ years. In this time, 
he has been off steroids only for ~1 month.  s/p stress dose 
steroid in the ED for possible iatrogenic adrenal suppression in 
the settingn of hypotension. Pt was restarted on prednisone 30mg 
PO daily, and remained stable on regimen.

# Depression: no SI/HI on admission. stable on home Fluoxetine 
40 mg PO DAILY 
 
# HLD: stable on Simvastatin 20 mg PO DAILY 
 
# OSA: stable on CPAP at night  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. PredniSONE 30 mg PO DAILY 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. Fluconazole 400 mg PO Q24H 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Ursodiol 250 mg PO TID 
7. Simvastatin 20 mg PO DAILY 
8. Acyclovir 400 mg PO Q8H 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. Omeprazole 40 mg PO BID 
11. Fexofenadine 180 mg PO DAILY PRN seasonal allergies 
12. Fluoxetine 40 mg PO DAILY 
13. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Fluconazole 400 mg PO Q24H 
3. Fluoxetine 40 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Omeprazole 40 mg PO BID 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. PredniSONE 30 mg PO DAILY 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Fexofenadine 180 mg PO DAILY PRN seasonal allergies 
10. Metoprolol Succinate XL 25 mg PO DAILY 
11. Prochlorperazine 10 mg PO Q6H:PRN nausea 
12. Vitamin D 50,000 UNIT PO 1X/WEEK (WE) 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth once every ___ Disp #*7 Capsule Refills:*0
13. Filgrastim 300 mcg SC Q24H 
take daily until ___. await clinic visit for further 
instruction. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
Neutropenic Fever, no source identified

Secondary Diagnosis
Hodgkin's Lymphoma
Sarcoidosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It has been our pleasure to be taking care of you.  You were 
admitted for neutropenic fever.  Your heart rate was initially 
high and your blood pressure was initially low.  We treated you 
with antibiotics, and your fever has since resolved.  You were 
also seen by our cardiologists, who deemed that your initial 
fast heart rate was related to the infection, and that there 
will be no changes needed for your heart medications.  You 
tolerated chemotherapy this week well.  Please follow up with 
___ clinic upcoming Thurday to further 
evaluate your occassional dizziness while standing up.  You have 
___ clinic scheduled on the same time for your 
follow-up.  Please also remember to take neupogen daily until 
next ___, and you will receive further 
instruction from the ___ clinic on ___.
 
Followup Instructions:
___